US08022222B2
A 25 mL round-bottomed flask is charged with 4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)nicotinaldehyde (534 mg, 1.54 mmol) and THF (10 mL). Methyl(triphenylphosphoranylidene)acetate (668 mg, 2.00 mmol) is added and the reaction mixture is stirred at room temperature. After 4 hours, additional methyl(triphenylphosphoranylidene)acetate (668 mg, 2.00 mmol) is added and the reaction mixture is and stirred overnight. The precipitate is filtered, concentrated, and purified by silica gel chromatography (1:1 EtOAc in hexanes) to afford (E)-methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)acrylate.

reactant | 4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)nicotinaldehyde | 1.54 mmol, 534 mg | FC1=C(OC2=CC(=NC=C2C=O)NC=2SC=C(N2)C)C(=CC=C1)F | C16H11F2N3O2S
reactant | Methyl(triphenylphosphoranylidene)acetate | 2.00 mmol, 668 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | methyl(triphenylphosphoranylidene)acetate | 2.00 mmol, 668 mg | COC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H19O2P
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-methyl 3-(4-(2,6-difluorophenoxy)-6-(4-methylthiazol-2-ylamino)pyridin-3-yl)acrylate | FC1=C(OC2=C(C=NC(=C2)NC=2SC=C(N2)C)/C=C/C(=O)OC)C(=CC=C1)F | C19H15F2N3O3S
